US09388180B2
2-Methoxy-5,6-dimethyl-8-propyl-3-thia-1,4,7,8a-tetraaza-as-indacene
2-Bromo-5,6-dimethyl-8-propyl-3-thia-1,4,7,8a-tetraaza-as-indacene was dissolved in 5 mL of methanol and sodium methoxide (4.98 mg, 0.092 mmol) was added. The resulting mixture was stirred at 60° C. for 1 h. LC-MS showed complete consumption of 2-bromo-5,6-dimethyl-8-propyl-3-thia-1,4,7,8a-tetraaza-as-indacene. After removal of the solvent under reduced pressure, 5 mL of water and 10 mL of EA were added. The organic layer was concentrated, crude product was purified by prep-HPLC to give 4 mg of the title compound.

reactant | 2-Bromo-5,6-dimethyl-8-propyl-3-thia-1,4,7,8a-tetraaza-as-indacene | BrC1=NC=2N3C(=NC(=C3C(=NC2S1)C)C)CCC | C12H13BrN4S
reactant | sodium methoxide | 0.092 mmol, 4.98 mg | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-Methoxy-5,6-dimethyl-8-propyl-3-thia-1,4,7,8a-tetraaza-as-indacene | 4 mg | COC1=NC=2N3C(=NC(=C3C(=NC2S1)C)C)CCC | C13H16N4OS
